US08859591B2
Step (2): (R)-methyl 4-(1-(methylsulfonyloxy)butyl)benzoate
To a solution of (R)-methyl 4-(1-hydroxybutyl)benzoate, intermediate (26) (10 g, 48 mmol) in methyl t-butyl ether (80 mL) containing triethylamine (6.32 g, 62 mmol) was added methanesulfonyl chloride (6.05 g, 53 mmol) slowly at 20° C. The solution was filtered to remove triethylamine salts and the solution used in the next step without isolation.

reactant | (R)-methyl 4-(1-hydroxybutyl)benzoate | O[C@H](CCC)C1=CC=C(C(=O)OC)C=C1 | C12H16O3
reactant | triethylamine | 62 mmol, 6.32 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 53 mmol, 6.05 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methyl t-butyl ether | 80 mL | C(C)(C)(C)OC | C5H12O
product | (R)-methyl 4-(1-(methylsulfonyloxy)butyl)benzoate | CS(=O)(=O)O[C@H](CCC)C1=CC=C(C(=O)OC)C=C1 | C13H18O5S
